### PR TITLE
Remove toNat from LLVM semantics

### LINKED ISSUE #694: Remove toNat from LLVM semantics
Several LLVM functions use toNat, while they can use a bit-vector level comparison which would allow them to be bitblasted.

We should transform this code:

```lean
@[simp_llvm]
def lshr? {n} (op1 : BitVec n) (op2 : BitVec n) : IntW n :=
  let bits := op2.toNat
  if bits >= n then .none
  else pure (op1 >>> op2)
```

into 

```lean
@[simp_llvm]
def lshr? {n} (op1 : BitVec n) (op2 : BitVec n) : IntW n :=
  let bits := op2
  if bits >= n then .none
  else pure (op1 >>> op2)
```

and while at it, clean it up to sth like:

```lean
@[simp_llvm]
def lshr? {n} (op1 : BitVec n) (op2 : BitVec n) : IntW n :=
  if op2 >= n then
    none
  else
    pure (op1 >>> op2)
```

### PR DESCRIPTION
**Pull request by lfrenot**
This closes: https://github.com/opencompl/lean-mlir/issues/694

### CODE REVIEW

**Review by tobiasgrosser — APPROVED** [review]
This looks good to me, assuming the tests are going through.

**Comment by lfrenot** [comment]
It would probably be nice if someone who actually knows lean/lean-mlir to go through the changes to the proofs I made

To see if there aren't easier/better ways to do them

File: SSA/Projects/InstCombine/PaperExamples.lean [hunk 1]
```diff
@@ -32,11 +32,15 @@ theorem shift_mul:
...
   rcases A with rfl | A  <;>
-  rcases B with rfl | B  <;> (try (simp only [bind, Option.bind, Refinement.refl]; done)) <;>
-  by_cases h : w ≤ BitVec.toNat B <;>
-    simp only [Bool.false_eq_true, ge_iff_le, toNat_allOnes, false_and, _root_.or_self, ↓reduceIte,
-      shiftLeft_eq', EffectKind.return_impure_toMonad_eq, Option.pure_def, mul_eq,
-      Option.bind_eq_bind, Option.none_bind, Option.bind_none, Option.some_bind, Refinement.refl, h]
+  rcases B with rfl | B  <;> (try (simp only [Bool.false_eq_true, shiftLeft_eq', false_and, ↓reduceIte, ushiftRight_eq', natCast_eq_ofNat,
+  ge_iff_le, EffectKind.return_impure_toMonad_eq, Option.pure_def, truncate_eq_setWidth, ofNat_eq_ofNat, toNat_ofNat,
+  mul_eq, Option.bind_eq_bind, Option.some_bind, Option.none_bind, Option.bind_none, Refinement.refl]; done)) ;
+  by_cases h : (BitVec.ofNat w w)≤ B <;>
```
Comment (lfrenot) [inline SSA/Projects/InstCombine/PaperExamples.lean]:
```suggestion
  by_cases h : (BitVec.ofNat w w) ≤ B <;>
```
